US06218538B1
p-Toluamidine Monohydrochloride
To a solution of p-tolunitrile (10.0 g) in methanol (85 mlb) was added sodium methoxide (0.46 g) and the reaction was stirred at room temperature for 5 days. Ammonium chloride (4.6 g) was added and the reaction was stirred overnight. The reaction was filtered and the filtrate concentrated to an oil. After the addition of ether the off-white precipitate was collected and dried to give the title compound (4.52 g). Electrospray MS m/z 135 [M+H]+.

reactant | p-tolunitrile | 10.0 g | C1(=CC=C(C=C1)C#N)C | C8H7N
reactant | sodium methoxide | 0.46 g | C[O-].[Na+]
reactant | Ammonium chloride | 4.6 g | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | p-Toluamidine Monohydrochloride | 4.52 g | Cl.C1(=CC=C(C=C1)C(=N)N)C | InChI=1S/C8H10N2.ClH/c1-6-2-4-7(5-3-6)8(9)10;/h2-5H,1H3,(H3,9,10);1H
